US07282501B2
Step A: 4-(2-Benzyloxy-ethyl)-5-methyl-2-(4-phenoxy-phenyl)-oxazole
A mixture of 4-(2-benzyloxy-ethyl)-2-(4-bromo-phenyl)-5-methyl-oxazole (0.025 mol, 9.2 g), phenol (0.03 mol, 2.8 g), K3PO4 (0.05 mol, 10.6 g), 2-(di-tert-butylphosphino)biphenyl (1.8 mmol, 0.54 g) and Pd(OAc)2 (1.2 mmol, 0.28 g) in toluene (350 mL) was degassed with nitrogen and heated at 100° C. for 18 h. Additional Pd(OAc)2 (0.5 g) and phosphine ligand (1.0 g) were added, and the mixture was heated 5 h at 100° C. The reaction was concentrated and purified directly by silica gel chromatography (4/1 hexanes/ethyl acetate) to give the title compound (7.6 g).

reactant | 4-(2-benzyloxy-ethyl)-2-(4-bromo-phenyl)-5-methyl-oxazole | 0.025 mol, 9.2 g | C(C1=CC=CC=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br | C19H18BrNO2
reactant | phenol | 0.03 mol, 2.8 g | C1(=CC=CC=C1)O | C6H6O
reactant | K3PO4 | 0.05 mol, 10.6 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 1.2 mmol, 0.28 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 1.8 mmol, 0.54 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 4-(2-Benzyloxy-ethyl)-5-methyl-2-(4-phenoxy-phenyl)-oxazole | 7.6 g | C(C1=CC=CC=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H23NO3
